US08008483B2
b) Preparation of ethyl 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylate
To a solution of ethyl 1-(4,6-dichloro-1,3,5-triazin-2-yl)-4-piperidinecarboxylate (1.0 g, 3.3 mmol, 1.0 equiv) in dichloromethane (20 ml) at room temperature, a premixed solution of methylamine (1.6 ml, 3.3 mmol, 1.0 equiv) and diisopropylethylamine (DIEA, 1.7 ml, 9.8 mmol, 3.0 equiv) in dichloromethane (10 ml) was added dropwise. The reaction was stirred for 3 h at room temperature. The solvent was removed under reduced pressure to afford 983 mg (100%) of the title compound. MS (ES+): m/e 300.1 [M+H]+.

reactant | ethyl 1-(4,6-dichloro-1,3,5-triazin-2-yl)-4-piperidinecarboxylate | 3.3 mmol, 1.0 g, 1.0 equiv | ClC1=NC(=NC(=N1)Cl)N1CCC(CC1)C(=O)OCC | C11H14Cl2N4O2
reactant | methylamine | 3.3 mmol, 1.6 ml, 1.0 equiv | CN | CH5N
reactant | diisopropylethylamine | 9.8 mmol, 1.7 ml, 3.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | ethyl 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylate | 983 mg, 100% | ClC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)OCC | C12H18ClN5O2
